US05300245
143.0 g (1.04 mol) of 2-phenoxyethanol, 81.0 g (1.19 mol) of sodium ethylate and 291 g of 1,4-dioxane are placed in a 1-liter four-necked flask equipped with a stirrer, a thermometer, a distillating column and a nitrogen-inlet tube. The solution is heated to 90° to 105° C., and then 200 g of the solvent is removed in a period of 2 hours. The distillating column is then replaced by a dropping funnel, and 183.5 g (1.19 mol) of diethyl sulfate is added thereto dropwise at 45° C. over a period of 30 minutes. After stirring the reaction mixture at 60° C. for 1 hour, the reaction product is placed in water and extracted with ether. The solvent is removed using an evaporator, and further distilled under reduced pressure to yield 160 g of ethyl 2-phenoxyethyl ether.

reactant | 2-phenoxyethanol | 1.04 mol, 143.0 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | sodium ethylate | 1.19 mol, 81.0 g | CC[O-].[Na+]
reactant | 1,4-dioxane | 291 g | O1CCOCC1 | C4H8O2
reactant | diethyl sulfate | 1.19 mol, 183.5 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | water | O | H2O
product | ethyl 2-phenoxyethyl ether | 160 g | O(C1=CC=CC=C1)CCOCC | C10H14O2
